US08445501B2
4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride
4-({1-[4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester from example A86 (4.02 g; 7.5 mmol) is dissolved in warm (40-70° C.) 2-propanol (37.5 mL). After addition of 4M HCl in dioxane (7.5 mL) the stirred reaction mixture is heated to 80° C. for two hours. Tert-butylmethylether (150 mL) is added to the reaction mixture while still warm (40-70° C.). After cooling in an ice bath the precipitated product is collected, washed with tert-butylmethylether and dried in high vacuo at 50° C. to yield 3.35 g of the title compound as bright yellow solid.

reactant | 4-({1-[4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C28H33N5O6
reactant | 2-propanol | 37.5 mL | CC(C)O | C3H8O
reactant | HCl | 4M | Cl | ClH
reactant | Tert-butylmethylether | 150 mL | C(C)(C)(C)OC | C5H12O
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
product | 4-(5-Cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | 3.35 g | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | InChI=1S/C23H25N5O4.ClH/c29-23(28-14-5-7-24-8-6-14)15-9-25-21-19(15)26-11-27-20(21)18-16(30-10-13-1-2-13)3-4-17-22(18)32-12-31-17;/h3-4,9,11,13-14,24-25H,1-2,5-8,10,12H2,(H,28,29);1H
